Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weight loss, diarrhea  
 
Major Surgical or Invasive Procedure:
___ ultrasound-guided core-needle biopsy of right adrenal 
mass
 
History of Present Illness:
___ year old man with refractory hypertension presents with 
weight loss, diarrhea, and abdominal discomfort after eating. He 
initially presented to ___ where a CT 
abdomen showed a large soft tissue mass in the right suprarenal 
space, suspicious for an adrenal tumor. Additionally, there is 
concern for an IVC thrombus and possible pulmonary and hepatic 
metastases. He was subsequently transferred to ___ for further 
management and workup.  

His symptoms began approximately 2 months prior to admission. He 
has lost weight unintentionally (154 lb -> 141 lb), persistent 
diarrhea, and right sided abdominal pain after eating. He has 
fatigue, nausea and recently developed bilateral lower extremity 
edema. He thinks his symptoms are due to the many new blood 
pressure medications his PCP ___.  

In the ED, initial VS were: 97.8 80 124/76 16 98% RA. Labs 
notable for Na 130, BUN 76, Cr 1.7, HCO3 19, ALT 45, AP 161, 
Tbili 1.6, Alb 3.6, AST 127, INR 1.3. He was started on a 
heparin drip. Vitals prior to admission: 97.0 96 18 116/74 98% 
RA.  

On arrival to the floor, the patient is tired. He does not know 
any of his medications. Denies pain currently.  
 
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, chest pain, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
Hypertension  
Right hip replacement ___  
 
Social History:
___
Family History:
Extensive family history of cancer, although patient does not 
know which types. Mother, 2 sisters, father and grandmother all 
with cancer.  
 
Physical Exam:
ADMISSION EXAM
VITALS: 98.1 F 127/72 78 98% RA  
___: NAD, cachectic, weak appearing  
HEENT: PERRL, EOMI, MMM  
NECK: no carotid buits, no cervical LAD  
LUNGS: CTAB, no W/R/R  
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: Soft, NT, NABS, no organomegaly, occasional voluntary 
guarding but no pain  
EXTREMITIES: 1+ pitting ___ edema bilaterally, warm/well perfused 
 
NEUROLOGIC: A+OX3, normal mentation, ___ strength throughout, 
sensation intact  

DISCHARGE EXAM
VS: not checking vital signs
___: NAD, cachectic, comfortable-appearing
SKIN: Stage II skin abrasion on right flank
GU: Scrotum very swollen, edematous
 
Pertinent Results:
ADMISSION LABS
___ 11:45PM BLOOD WBC-6.8 RBC-5.58 Hgb-18.5* Hct-56.4* 
MCV-101* MCH-33.1* MCHC-32.8 RDW-15.0 Plt Ct-98*
___ 11:45PM BLOOD Neuts-69.6 ___ Monos-7.6 Eos-2.3 
Baso-1.8
___ 11:45PM BLOOD ___ PTT-87.3* ___
___ 11:45PM BLOOD Glucose-153* UreaN-76* Creat-1.7* Na-130* 
K-4.8 Cl-98 HCO3-19* AnGap-18
___ 11:45PM BLOOD ALT-45* AST-127* AlkPhos-161* 
TotBili-1.6*
___ 07:00AM BLOOD Albumin-3.5 Calcium-8.9 Phos-4.1 Mg-2.4 
UricAcd-14.3*
___ 07:00AM BLOOD Cortsol-23.8*
___ 11:45PM BLOOD DHEA-SO-30
___ 04:43 ERYTHROPOIETIN  18.7  H (2.6-18.5 mIU/mL)
___ 07:25AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:25AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 07:25AM URINE RBC-<1 WBC-1 Bacteri-FEW Yeast-NONE Epi-0 
TransE-<1
___ 07:25AM URINE Hours-RANDOM UreaN-1072 Creat-118 Na-20 
K-58 Cl-22

====================

___ 10:06AM  CT ABD & PELVIS W/O CONTRAST 
1.  8-cm mass in the mid-to-upper pole of the right kidney, 
which likely infiltrates the right adrenal gland.  There is a 
concern for tumor thrombus extending to the right renal vein and 
into the IVC as the IVC is dilated in the intrahepatic segment.  

2. Ascites surrounding the liver and in the pelvis.  
3. Enlarged retroperitoneal lymph node at the level of the 
celiac axis.
4.  Multiple small lung nodules concerning for metastatic 
disease.
5.  Two liver lesions concerning for metastases.

====================

MRI ABDOMEN W/O & W/CONTRAST ___ 11:00 AM
1.  13-cm right retroperitoneal mass, likely arising from the 
adrenal, and may
reflect adrenocorticocarcinoma. Tumor thrombus involves the 
right renal vein
and IVC to the level of the inferior cavoatrial junction.  
Recommend
additional MR imaging or echocardiogram to evaluate thrombus 
burden in the
right atrium. 
2.  Bland nonocclusive thrombus in the right anterior portal 
vein.    
3.  Volume overload with ascites, pleural effusions, and 
anasarca.
4.  Cirrhosis and portal hypertension.  Primary hemochromatosis. 

Indeterminate liver lesions, for which the differential includes 
metastases,
can be better evaluated by dedicated multiphase liver CT or MR.
5.  Cholelithiasis.

====================

___ ultrasound-guided core-needle biopsy of right adrenal 
mass
Poorly differentiated carcinoma.  See note.
Note:  The tumor cells stain positive for MNF116, Keratin 
cocktail (AE1/AE3); CAM5.2), CA9 and very focally CK7.  CK20, 
P63, CK903, MART1, inhibin, synaptophysin, chromogranin,TTF-1, 
HMB45, S-100, PAX-2, p504s, and p63 are negative. CD99 is 
positive but the marked keratin staining present would be 
unusual for PNET/Ewing's.  Given the immunohistochemical profile 
and the clinical situation, a poorly differentiated renal cell 
carcinoma seems to be the most likely diagnosis, although other 
possibilities cannot be entirely excluded.
ADDENDUM: 
New radiological imaging suggested that the tumor origin was not 
kidney:" 13-cm right retroperitoneal mass, likely arising form 
the adrenal, and may reflect adrenocorticocarcinoma.  Tumor 
thrombus involves the right renal vein and IVC".  Given this 
information, the differential diagnosis of this tumor becomes 
uncertain, i.e. the immunophenotype is not that of the typical 
adrenal carcinoma and renal origin becomes unlikely.
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with extensive family history 
of cancer, as well as recent refractory hypertension, who 
presented with weight loss and diarrhea.  He was diagnosed with 
C. difficile colitis and was started on Metronidazole.  Imaging 
revealed that he had an adrenal mass and IVC thrombus for which 
he was started on a Heparin drip.

Workup included CT and MRI imaging, as well as ultrasound-guided 
core-needle biopsy of right adrenal mass.  He was diagnosed with 
metastatic adrenocortical carcinoma with liver & lung 
metastases.  

Per Oncology note: "His case was discussed at the ___ GU 
multidisciplinary conference, where his pathology, imaging, and 
clinical status were reviewed with urology, pathology, 
radiology, and medical oncology all in attendance.  The primary 
mass...arises from the right adrenal gland...The carcinoma is 
poorly differentiated and definitely would not be a clear cell 
carcinoma even in the small likelihood that it were an RCC, 
thereby making it a suboptimal candidate for most standard RCC 
therapies.  Furthermore, it invades the liver and IVC, making 
any potential surgical option a highly morbid procedure, with 
anticipated need for partial liver resection (given liver 
invasion), IVCectomy (given IVC invasion in addition to tumor 
thrombus), and cardiac bypass (given the proximity of the 
thrombus to his heart).  The consensus was that he is not an 
appropriate candidate for surgery...We had a family meeting 
___ options we discussed included palliative 
therapy with mitotane, which would have no chance of cure and a 
small chance of providing symptomatic relief and meaningful 
benefit given the extent of his disease, home hospice, and 
inpatient hospice.  We expressed our regret that we did not have 
better antineoplastic options to offer to him.  He expressed 
that his wishes are to go home if possible and to enjoy the best 
quality of life possible in his remaining time."

Patient is DNR/DNI with goals of care focusing on comfort and 
symptom management (CMO).  Heparin drip has been stopped, 
antihypertensives stopped, and 10-day course of Metronidazole 
will be continued for comfort (___).  He is being 
discharged to hospice care.

Symptoms to monitor:
-Numbness along the lateral part of his right thigh. 
-Pain in right abdomen, reasonably controlled on Oxycodone 
Please continue to monitor pain.
-Occasional nausea.
-Stage II skin abrasion on right flank.
-Scrotal swelling (likely from IVC thrombus), with urine 
dribbling and difficulty manipulating his penis to urinate. He 
was offered foley for comfort but declined on the day of 
discharge. Please offer again upon arrival to hospice.
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from Patient.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
please hold for HR <60, SBP <90 
3. Lisinopril Dose is Unknown  PO DAILY 
___ mg at home, unknown dose. 
4. Diltiazem 120 mg PO QID 
please hold for SBP <90, HR <60 
5. Furosemide 40 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
please hold for SBP <90, HR <60 
7. Benicar HCT *NF* (olmesartan-hydrochlorothiazide) ___ mg 
Oral QD 

 
Discharge Medications:
1. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H Duration: 2 Days 
through ___ (which completes a 10 day course of antibiotics 
for C.difficile colitis) 
2. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 
3. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
stomach upset 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Please alternate w/ acetaminophen dosing. thanks 
5. traZODONE 50 mg PO HS:PRN insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
metastatic adrenocortical carcinoma with liver and lung 
metastases
inferior vena cava thrombus
C.difficile colitis

SECONDARY
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing your care at the ___ 
___. You presented with weight loss and diarrhea.  
The diarrhea was due to a bacteria called C.difficile, for which 
you will complete a 10 day course of antibiotics.  You were 
found to have an adrenal cancer with liver and lung metastases 
as well as a clot in one of the gut veins.  You discussed your 
options with Oncology, Urology, and the medical team and you 
decided to be discharged to hospice.  Your care will be focused 
on symptom control. 

You are being discharged on Oxycodone as needed for pain, as 
well as a couple of days of an antibiotic to complete a full 
course for your infectious diarrhea.

We made the following changes to your medications:
-Please stop all medications received prior to this 
hospitalization.  The hospice providers ___ give you 
medications as needed for your symptoms such as pain and nausea.
-START Tylenol and Oxycodone as needed for pain
-START Maalox as needed for heartburn
-START Trazodone as needed for insomnia
-START Metronidazole (through ___, which will complete a 10 day 
course of antibiotics for C.difficile diarrhea)
 
Followup Instructions:
___